US03941821
To a stirred suspension of 0.01 moles of sodium hydride in 25 ml. of dry dimethylformamide which has been cooled to 0°C is added dropwise a solution of 0.01 moles of ethyl 2'-hydroxy-4-biphenylylglycolate in 10 ml. of dimethylformamide. The reaction mixture is stirred for 15 minutes and 0.015 moles of methyliodide is then added dropwise. The mixture is allowed to stir overnight at room temperature. 200 ml. of water is added and the resulting mixture is extracted well with ether. The ether extract is washed with water, dried over sodium sulfate, evaporated to dryness and distilled to obtain ethyl 2'-methoxy-4-biphenylylglycolate.

reactant | sodium hydride | 0.01 moles | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethyl 2'-hydroxy-4-biphenylylglycolate | 0.01 moles | OC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C16H16O4
reactant | methyliodide | 0.015 moles | CI | CH3I
solvent | water | O | H2O
product | ethyl 2'-methoxy-4-biphenylylglycolate | COC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C17H18O4
